US07674789B2
104a) 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid
To a solution of 4-iodo-3-methylbenzoic acid (520 mg, 2.0 mmol) in DMF (8 mL) were added palladium acetate (23 mg, 0.10 mmol), potassium acetate (590 mg, 6.0 mmol) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (560 mg, 2.2 mmol). The reaction mixture was microwaved at 150° C. for 30 mins. The reaction mixture was poured into water (25 mL), extracted with ethylacetate (100 mL) while acetic acid (1 mL) was added. The organic layer was washed with water (50 mL), brine (50 mL), dried with sodium sulfate, filtered and concentrated. The residue was separated by combiflash which provided the title compound as a white solid (460 mg, 88%). LC-MS m/z 263 (M+H)+.

reactant | 4-iodo-3-methylbenzoic acid | 2.0 mmol, 520 mg | IC1=C(C=C(C(=O)O)C=C1)C | C8H7IO2
reactant | potassium acetate | 6.0 mmol, 590 mg | C(C)(=O)[O-].[K+]
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 2.2 mmol, 560 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | water | 25 mL | O | H2O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.10 mmol, 23 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid | 460 mg, 88% | CC=1C=C(C(=O)O)C=CC1B1OC(C(O1)(C)C)(C)C | C14H19BO4
